US04652559
A mixture of 2.5 g (9.5 mmoles) of cis-N-(3-hydroxypropyl)-N-[2-[hydroxy(phenyl)methyl]cyclohexyl]amine, 10 ml of toluene and 6.45 g of 48% v/v aqueous hydrogen bromide solution was stirred and heated on a steam bath for 3.5 hr. The resulting solution was cooled, basified with 20% sodium hydroxide solution and extracted with chloroform. The chloroform extract was washed with water, and saturated sodium chloride solution and then dried over magnesium sulfate and evaporated. The residue, 2 g, was chromatographed by high pressure liquid chromatography (HPLC) procedures using a Merck silica gel, size C column and 10% v/v methanol/in chloroform/1% v/v ammonium hydroxide mixture as eluting liquid, collecting 20 ml fractions. Fractions 1 to 14 gave no product material. Fractions 15 to 25 gave 0.686 g (30% yield) of (±)-(E)-1-[2-(phenylmethylene)cyclohexyl]azetidine, which was identified by NMR analysis comparison with the NMR of standard, authentic compound. Fractions 26 to 31 gave 0.25 g of a mixture, and fractions 32 to 50 gave 0.286 g of N-(3-hydroxypropyl)-N-[2-(phenylmethylene)cyclohexyl]amine which was identified by NMR comparison with a known standard sample, and also by conversion to its hydrochloride salt which was identical to a standard sample by NMR, UV and IR spectral analysis comparisons.

reactant | cis-N-(3-hydroxypropyl)-N-[2-[hydroxy(phenyl)methyl]cyclohexyl]amine | 9.5 mmoles, 2.5 g | OCCCN[C@H]1[C@H](CCCC1)C(C1=CC=CC=C1)O | C16H25NO2
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-(E)-1-[2-(phenylmethylene)cyclohexyl]azetidine | 0.686 g, 30% yield | C1(=CC=CC=C1)\C=C/1\C(CCCC1)N1CCC1 | C16H21N
